US07094801B2
4-{3E-[2,4-Dimethoxy-5-(1H-pyrazol-4-yl)-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-(1H-pyrazol-4-yl)-benzaldehyde (Ex-74B) and 4-acetylbenzoic acid in a similar manner as described in Ex-3 including an acid work-up. Yellow solid, mp>250° C. 1H-NMR (DMSO-d6) δ 12.42 (bs, 1H), 8.20–8.03 (m, 8H), 7.85 (d, J=16.1 Hz), 6.74 (s, 1H), 3.95 (s, 3H), 3.94 (s, 3H). MS m/z=379 ([M+H]+, 100%).

reactant | 2,4-dimethoxy-5-(1H-pyrazol-4-yl)-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1C=NNC1 | C12H12N2O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[2,4-Dimethoxy-5-(1H-pyrazol-4-yl)-phenyl]-acryloyl}-benzoic acid | COC1=C(C=C(C(=C1)OC)C=1C=NNC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C21H18N2O5
